US06984512B1
Growth and L-Lysine Production in Bench Scale Fermentors
Production stage medium was composed of 40 g/l (db) corn steep liquor, 20 g/l ammonium sulfate as raffinate, 12.0 mg/l MnSO4—H2O, 0.75 mls/i antifoam and 12 g/l dextrose, sterilized separately as a 250 g/l solution and added just prior to inoculation. Media formulation was based on a 2.1 liter initial volume which includes 500 mls of mature second stage broth as inoculum. Operating parameters were the following: 32° C., 2.1 vvm air, and an initial and control point pH of 7.2. pH control was again done with NH3 or NH4OH. Agitation was initially 600 rpm, increased to 700 rpm at 9 hrs culture time and 900 rpm at 19 hrs culture time. The fermentation was fed on demand, as indicated by pH increases due to dextrose depletion, a mixture of dextrose and ammonium sulfate. The feed was prepared by sterilizing separately 2310 g dextrose+800 mls water and a volume of raffinate containing a total of 176 g of ammonium sulfate, then combining the two solutions upon cooling to ambient temperature. Total fermentation time was 48 hrs. The vessel size was the same as that used for the second stage inoculum development.

reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | NH3 | N | H3N
reactant | NH4OH | [NH4+].[OH-]
reactant | ammonium sulfate | 176 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | dextrose | 800 mls, 2310 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
catalyst | MnSO4 H2O | [O-]S(=O)(=O)[O-].[Mn+2].O
product | L-Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
